* source STABILIZATOR_DE_TENSIUNE
Q_Q1         N00172 N06754 N00184 QBC846B 
Q_Q2         N00180 N65068 N00184 QBC846B 
Q_Q3         N00172 N00172 N11321 QBC807-25 
Q_Q4         N00180 N00172 N11325 QBC807-25 
V_V1         N00355 0 20V
Q_Q6         N00355 N00180 N94229 QBC846B 
R_RL         0 N00769  500 TC=0,0 
R_R4         N12843 N00355  2k TC=0,0 
R_R6         N06754 N00355  1k TC=0,0 
R_R9         N11321 N00355  100 TC=0,0 
R_R10         N11325 N00355  100 TC=0,0 
Q_Q9         N00184 N12886 N60921 QBC846B 
Q_Q10         N12843 N12886 N60878 QBC846B 
R_R14         0 N65489  2k TC=0,0 
D_D1         0 N06754 BZX84-C5V1 
Q_Q11         N00355 N12843 N12886 QBC846B 
R_R16         0 N60878  100 TC=0,0 
R_R17         0 N60921  50 TC=0,0 
Q_Q14         N00180 N00751 N00769 QBC846B 
R_R20         N00769 N00751  2 TC=0,0 
X_R15         N00769 N65068 N65489 POT PARAMS: SET=0 VALUE=2k
C_C1         0 N00769  100n  TC=0,0 
Q_Q16         N00180 N70839 0 QBC846B 
R_R21         0 N70839  510 TC=0,0 
Q_Q17         N00355 N06754 N79495 QBC846B 
R_R22         N70839 N79495  3.3k TC=0,0 
Q_Q18         N00355 N94229 N00751 QMJD31C 
